US06867218B2
(E)-(S)-Ethyl 2-Ethoxy-3-[4-(3-[1,1′;3′,1″]terphenyl-5′-yl-allyloxy)-phenyl]-propionate
The title compound (426 mg, 80%) was prepared from (E)-3-[1,1′;3′,1″]terphenyl-5′-yl-prop-2-en-1-ol (300 mg, 1.05 mmol) and (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (262 mg, 1.10 mmol) by a procedure analogous to that described in example 52c.

reactant | (E)-3-[1,1′;3′,1″]terphenyl-5′-yl-prop-2-en-1-ol | 1.05 mmol, 300 mg | C1(=CC=CC=C1)C1=CC(=CC(=C1)/C=C/CO)C1=CC=CC=C1 | C21H18O
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 1.10 mmol, 262 mg | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
product | (E)-(S)-Ethyl 2-Ethoxy-3-[4-(3-[1,1′;3′,1″]terphenyl-5′-yl-allyloxy)-phenyl]-propionate | 426 mg, 80% | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)OC\C=C\C=1C=C(C=C(C1)C1=CC=CC=C1)C1=CC=CC=C1 | C34H34O4
